US05994368
A mixture of 8-[2,6-dichloro-3-(N-methanesulfonyloxyacetyl-N-methylamino)benzyloxy]-2-methylquinoline (110 mg), 4-(3-aminophenyl)-N,N-dimethylbenzamide (60.2 mg) and potassium carbonate (94.2 mg) in N,N -dimethylformamide (1 ml) was stirred for 12 hours at 60° C., and ethyl acetate and water were added thereto. The organic layer was washed with water and brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by preparative thin-layer chromatography (chloroform:methanol=20:1, V/V) to give 8-[2,6-dichloro-3-methylamino]benzyloxy]-2-methylquinoline (30 mg) as colorless amorphous.

reactant | 8-[2,6-dichloro-3-(N-methanesulfonyloxyacetyl-N-methylamino)benzyloxy]-2-methylquinoline | 110 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C)C(COS(=O)(=O)C)=O)Cl | C21H20Cl2N2O5S
reactant | 4-(3-aminophenyl)-N,N-dimethylbenzamide | 60.2 mg | NC=1C=C(C=CC1)C1=CC=C(C(=O)N(C)C)C=C1 | C15H16N2O
reactant | potassium carbonate | 94.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N -dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-methylquinoline | 30 mg | CC1=NC2=CC=CC=C2C=C1 | C10H9N
